US07354942B2
A solution of ethyl 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoate (0.13 g, 0.25 mmol) and LiOH.H2O (31 mg, 0.75 mmol) in 6.5 mL THF and 2.5 mL H2O was stirred at rt overnight. Additional LiOH.H2O (25 mg, 0.60 mmol) was added and the reaction was continued for 64 h. The mixture was concentrated, diluted with H2O, made acidic with 10% citric acid solution and extracted with EtOAc. The combined organic layers were washed with brine. Drying and solvent evaporation gave 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid. 1H NMR (500 MHz, CDCl3) δ 8.09 (app d, J=1.5 Hz, 1H), 8.04 (s, 1H), 7.74 (s, 1H), 7.28-7.20 (m, 3H), 7.17 (m, 2H), 4.62 (s, 3H), 3.58 (bs, 1H), 3.48 (d, J=8.5 Hz, 1H), 3.15 (d, J=12.9 Hz, 1H), 2.95 (d, J=13.2 Hz, 1H), 2.54 (m, 2H), 2.14-1.96 (m, 6H), 1.47 (s, 9H), 1.28 (s, 3H).

reactant | ethyl 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoate | 0.25 mmol, 0.13 g | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C31H40N2O5
reactant | LiOH.H2O | 0.75 mmol, 31 mg | O[Li].O
reactant | LiOH.H2O | 0.60 mmol, 25 mg | O[Li].O
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 2.5 mL | O | H2O
product | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H36N2O5
